US05157041
0.345 g of N2 -(benzyloxycarbonyl)-4(R)-azido-N1 -tert.butyl-L-prolinamide was dissolved in 5 ml of dry tetrahydrofuran and the solution was evaporated. The residual gum was dissolved in 10 ml of dry tetrahydrofuran and treated under a nitrogen atmosphere with 0.262 g of triphenylphosphine. The resulting solution was left to stand under a nitrogen atmosphere at room temperature for 18 hours. 0.027 g of water was added and the solution was left to stand at room temperature for 24 hours. The solvent was then removed by evaporation and the residual gum was partitioned between water and diethyl ether. The aqueous phase was back-extracted with diethyl ether. The aqueous phase was then evaporated to give 0.09 g of N2 -(benzyloxycarbonyl)-4(R)-amino-N1 -tert.butyl-L-prolinamide as a gum. After standing overnight at room temperature the diethyl ether extracts were combined and evaporated to give 0.7 g of an oil which was chromatographed on silica gel using 10% methanol in dichloromethane for the elution to give a further 0.16 g of N2 -(benzyloxycarbonyl)-4(R)-amino-N1 -tert.butyl-L-prolinamide as a gum.

reactant | N2 (benzyloxycarbonyl)-4(R)-azido-N1 -tert.butyl-L-prolinamide | 0.345 g | N#N.C(C1=CC=CC=C1)OC(=O)[C@@]1(N(C[C@@H](C1)N=[N+]=[N-])C(C)(C)C)C(=O)N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N2 (benzyloxycarbonyl)-4(R)-amino-N1 -tert.butyl-L-prolinamide | 0.09 g | N#N.C(C1=CC=CC=C1)OC(=O)[C@@]1(N(C[C@@H](C1)N)C(C)(C)C)C(=O)N | InChI=1S/C17H25N3O3.N2/c1-16(2,3)20-10-13(18)9-17(20,14(19)21)15(22)23-11-12-7-5-4-6-8-12;1-2/h4-8,13H,9-11,18H2,1-3H3,(H2,19,21);/t13-,17+;/m1./s1
